US06147061
2-[(4-Benzyl benzyl)methoxyphosphinoylmethyl]-4-methylpentanoic acid benzyl ester (650 mg, 1.36 mmole) was hydrogenated at 45 psi at room temperature in methanol (50 ml) over 5% palladium on barium sulfate (650 mg) for 1 hour. The catalyst was filtered off and washed with methanol. The filtrate was concentrated and traces of methanol removed by twice diluting the sample with methylene chloride and reconcentrating. The intermediate 2-[(4-benzyl benzyl)methoxyphosphinoylmethyl]-4-methylpentanoic acid was dissolved in dry dimethylformamide (14 ml) and hydroxysuccinimide (235 mg, 2.04 mmole) and dimethylaminopropylethylcarbodiimide hydrochloride (391 mg, 2.04 mmol) added. After stirring at room temperature for 20 hours the solution was diluted with ether (50 ml) and washed with 1N hydrochloric acid (50 ml, 2×25 ml) and saturated sodium bicarbonate solution (25 ml) and dried with magnesium sulfate. After filtration and concentration 566 mg (86%) of 2-[(4-Benzylbenzyl) methoxyphosphinoylmethyl]-4-methyl-pentanoic acid 2,5-dioxo-pyrrolidin-1-yl ester was obtained as an oil.

reactant | 2-[(4-Benzyl benzyl)methoxyphosphinoylmethyl]-4-methylpentanoic acid benzyl ester | 1.36 mmole, 650 mg | C(C1=CC=CC=C1)OC(C(CC(C)C)CP(=O)OCCC1=CC=C(C=C1)CC1=CC=CC=C1)=O | C29H35O4P
reactant | hydroxysuccinimide | 2.04 mmole, 235 mg | OC1C(=O)NC(C1)=O | C4H5NO3
reactant | dimethylaminopropylethylcarbodiimide hydrochloride | 2.04 mmol, 391 mg | Cl.CN(C)CCCN=C=NCC
solvent | methanol | 50 ml | CO | CH4O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | palladium on barium sulfate | 650 mg | [Pd] | Pd
product | 2-[(4-Benzylbenzyl) methoxyphosphinoylmethyl]-4-methyl-pentanoic acid 2,5-dioxo-pyrrolidin-1-yl ester | 86% | O=C1N(C(CC1)=O)OC(C(CC(C)C)CP(=O)OCCC1=CC=C(C=C1)CC1=CC=CC=C1)=O | C26H32NO6P
